US05294631
A solution of n-butyl lithium (0.4 mL of 2.5M in hexane, 1 mmol) in dry tetrahydrofuran (5 mL) at -78° C. under argon was treated with diisopropylamine (108 mg, 1.06 mmol). This mixture was stirred 10 minutes at -78° C. and methyl 3-(2-thienyl)propanoate (156 mg, 0.92 mmol) was added in tetrahydrofuran. After being stirred an additional 30 minutes at -78° C., a solution of 2-n-butyl-1-(2-chlorophenyl)methyl-1H-benzimidazole-7-carboxaldehyde (200 mg, 0.61 mmol) in tetrahydrofuran (1.5 mL) was added. This mixture was stirred at -78° C. for 15 minutes and the reaction was quenched with saturated ammonium chloride. The product was extracted into ethyl acetate, washed with water, dried and concentrated product was flash chromatographed over silica gel with 5-10% of methanol in ethyl acetate to provide 0.17 g (56%) of methyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-benzimidazol-7-yl]-3-hydroxy-2-(2-thienyl)methylpropanoate as an oil.

reactant | n-butyl lithium | 1 mmol, 2.5M, 0.4 mL | C(CCC)[Li]
reactant | diisopropylamine | 1.06 mmol, 108 mg | C(C)(C)NC(C)C | C6H15N
reactant | methyl 3-(2-thienyl)propanoate | 0.92 mmol, 156 mg | S1C(=CC=C1)CCC(=O)OC | C8H10O2S
reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-1H-benzimidazole-7-carboxaldehyde | 0.61 mmol, 200 mg | C(CCC)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C(=CC=C2)C=O | C19H19ClN2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | methyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-benzimidazol-7-yl]-3-hydroxy-2-(2-thienyl)methylpropanoate | 0.17 g, 56% | C(CCC)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C(=CC=C2)C(C(C(=O)OC)CC=2SC=CC2)O | C27H29ClN2O3S
